US06897227B2
3-Chlorosulfonyl-benzoic acid 2-(3-nitro-benzenesulfonyl)ethyl ester (Intermediate 1)
To solid 3-chlorosulfonylbenzoic acid (3.2 g, 14.4 mmol) was added solid PCl5 (3.0 g, 14.4 mmol) at room temperature with mixing. The mixture was heated to 70° C. forming a brown liquid that was heated for an additional 2 h. POCl3 side product was removed by vacuum distillation and the residual brown oil was dissolved in 15 mL of CH3CN, and then 2-(3-nitrobenzenesulfonyl)ethanol (2.8 g, 12.0 mmol) was added. The mixture was heated to reflux temperature for 36 h. Thereafter water was added and the mixture was extracted with CH2Cl2. The resulting oil was purified by short column chromatography (eluent: CH2Cl2 to 1% MeOH in CH2Cl2) to give a brown semisolid, which became a white solid by treatment with ether-EtOAc (yield 2.75 g (53%)).

reactant | 3-chlorosulfonylbenzoic acid | 14.4 mmol, 3.2 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
reactant | PCl5 | 14.4 mmol, 3.0 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 2-(3-nitrobenzenesulfonyl)ethanol | 12.0 mmol, 2.8 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)CCO | C8H9NO5S
solvent | water | O | H2O
product | 3-Chlorosulfonyl-benzoic acid 2-(3-nitro-benzenesulfonyl)ethyl ester | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)CCOC(C1=CC(=CC=C1)S(=O)(=O)Cl)=O | C15H12ClNO8S2
